US09079866B2
4′-(5-Aminopyridin-2-yl)-N-tert-butyl-3′-fluorobiphenyl-2-sulfonamide
N-(tert-Butyl)-3′-fluoro-4′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-[1,1′-biphenyl]-2-sulfonamide (37 mg, 0.085 mmol) and 6-bromopyridin-3-amine (22 mg, 0.13 mmol) were added to a 5 mL sealable vial equipped with a stir bar. 1,4-Dioxane (0.2 mL) and 2 M Na2CO3 (0.2 mL) were added. Argon was bubbled through the solvent while it was rapidly stirred for 10 min then Pd(dppf)Cl2.CH2Cl2 (3 mg, 0.004 mmol) was added, and the mixture stirred for 15 hours at 80° Celsius under an argon atmosphere. The reaction was diluted with 2 mL of ethyl acetate and 2 mL of water and the aqueous layer was extracted with ethyl acetate (3×10 mL). The combined organic extracts were then dried with Na2SO4 and concentrated to dryness. The crude product was purified by HPLC to give the title compound. MS (ESI): mass calcd. for C21H22FN3O2S, 399.14; m/z found, 400.2 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 8.66 (s, 1H), 8.25-8.16 (dd, J=8.0, 1.4, 1H), 7.83-7.76 (dd, J=8.8, 1.7, 1H), 7.77-7.68 (m, 1H), 7.66-7.58 (m, 1H), 7.58-7.48 (m, 2H), 7.46-7.39 (m, 2H), 7.37-7.30 (dd, J=7.4, 1.5, 1H), 4.31 (s, 1H), 1.09 (s, 9H).

reactant | N-(tert-Butyl)-3′-fluoro-4′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-[1,1′-biphenyl]-2-sulfonamide | 0.085 mmol, 37 mg | C(C)(C)(C)NS(=O)(=O)C=1C(=CC=CC1)C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)F | C22H29BFNO4S
reactant | 6-bromopyridin-3-amine | 0.13 mmol, 22 mg | BrC1=CC=C(C=N1)N | C5H5BrN2
reactant | Na2CO3 | 2 M, 0.2 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | CH2Cl2 | 0.004 mmol, 3 mg | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 2 mL | O | H2O
solvent | 1,4-Dioxane | 0.2 mL | O1CCOCC1 | C4H8O2
product | 4′-(5-Aminopyridin-2-yl)-N-tert-butyl-3′-fluorobiphenyl-2-sulfonamide | NC=1C=CC(=NC1)C1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)NC(C)(C)C)F | C21H22FN3O2S
